US04846882
By the method of Example 1, Step A, 10.9 g (0.041 mole) of 2-bromo-4-fluorobenzyl bromide and 18.2 ml of a 21% by weight solution of sodium ethoxide in ethanol were reacted in 50 ml of tetrahydrofuran, yielding 7.18 g of ethyl 2-bromo-4-fluorobenzyl ether.

reactant | 2-bromo-4-fluorobenzyl bromide | 0.041 mole, 10.9 g | BrC1=C(CBr)C=CC(=C1)F | C7H5Br2F
reactant | sodium ethoxide | [O-]CC.[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | ethyl 2-bromo-4-fluorobenzyl ether | 7.18 g | BrC1=C(COCC)C=CC(=C1)F | C9H10BrFO
